US04360673
5-(2,2-Diphenylhydrazono)-1,3-ethanopiperidine
Zinc dust (90.0 g) is added in small portions to a well-stirred mixture of 5-(2,2-diphenylhydrazono)-1,3-ethanopiperidine-2-carboxylic acid-2,2,2-trichloroethylester in 300 ml of glacial acetic acid, maintaining the reaction temperature between 40° C.-60° C. with external cooling when necessary. Upon completion of the addition, stirring is continued at ambient temperature for 45 minutes. The insoluble material is filtered and the resulting clear yellow filtrate contains the desired product and can be used in the succeeding Fisher-Indole synthesis procedures.

reactant | 5-(2,2-diphenylhydrazono)-1,3-ethanopiperidine-2-carboxylic acid-2,2,2-trichloroethylester | ClC(COC(=O)C1N2CC(CC1CC2)=NN(C2=CC=CC=C2)C2=CC=CC=C2)(Cl)Cl | C22H22Cl3N3O2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 90.0 g | [Zn] | Zn
product | 5-(2,2-Diphenylhydrazono)-1,3-ethanopiperidine | C1(=CC=CC=C1)N(N=C1CC2CN(C1)CC2)C2=CC=CC=C2 | C19H21N3
